US06291455B1
5M Isopropanolic hydrogen chloride (1.5 ml) was added to a solution of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (202 mg, 0.6 mmol), (prepared as described for the starting material in Example 18), and 4-cyano-2-fluoroaniline (100 mg, 0.72 mmol), (U.S. Pat. No. 4,120,693), in isopropanol (5 ml) heated at 50° C. The mixture was then heated at 80° C. for 2 hours, allowed to cool to ambient temperature and left standing overnight. The resulting precipitate was collected by filtration and the solid was then partitioned between methylene chloride and water and 1M aqueous sodium hydroxide solution (0.8 ml) was added. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by flash chromatography eluting with methylene chloride/methanol (94/6). The purified solid was dissolved in methylene chloride and 2.2M ethereal hydrogen chloride was added. The precipitated product was collected by filtration, washed with ether and dried under vacuum to give 4-(4-cyano-2-fluoroanilino)-6-methoxy 7-(3-morpholinopropoxy)quinazoline hydrochloride (125 mg, 39%).

reactant | hydrogen chloride | 5M, 1.5 ml | Cl | ClH
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.6 mmol, 202 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 4-cyano-2-fluoroaniline | 0.72 mmol, 100 mg | C(#N)C1=CC(=C(N)C=C1)F | C7H5FN2
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 4-(4-cyano-2-fluoroanilino)-6-methoxy 7-(3-morpholinopropoxy)quinazoline hydrochloride | 125 mg, 39% | Cl.C(#N)C1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCN2CCOCC2)C=C1)F | InChI=1S/C23H24FN5O3.ClH/c1-30-21-12-17-20(13-22(21)32-8-2-5-29-6-9-31-10-7-29)26-15-27-23(17)28-19-4-3-16(14-25)11-18(19)24;/h3-4,11-13,15H,2,5-10H2,1H3,(H,26,27,28);1H
